US05654326
2-Ethyl-4-nitro-1H-indole (4.75 g, 25 mmol) was added to a mixture of 1.0 g (25 mmol) of 60% NaH/mineral oil (washed with hexane before adding DMF) in 40 ml DMF. After 45 minutes, 3.0 ml (25 mmol) of benzyl bromide was added. The mixture was stirred at room Temperature for four hours, diluted with water, and extracted with EtOAc. The EtOAc solution was washed with brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with 20% EtOAc/Hexane to give 6.36 g (91%) of 1-Phenylmethyl-2-ethyl-4-nitro-1H-indole as an oil.

reactant | 2-Ethyl-4-nitro-1H-indole | 25 mmol, 4.75 g | C(C)C=1NC2=CC=CC(=C2C1)[N+](=O)[O-] | C10H10N2O2
reactant | NaH | 25 mmol, 1.0 g | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | benzyl bromide | 25 mmol, 3.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Phenylmethyl-2-ethyl-4-nitro-1H-indole | 6.36 g, 91% | C1(=CC=CC=C1)CN1C(=CC2=C(C=CC=C12)[N+](=O)[O-])CC | C17H16N2O2
